US07601847B2
Synthesis of 1-Allyl-3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole
Under an atmosphere of nitrogen, a 1.3 M tetrahydrofuran solution of lithium(trimethylsilyl)amide (1.26 L, 1.63 mol) was added to a cold (−15 to −10° C.) stirred solution of 3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole (0.250 kg, 0.766 mol) in tetrahydrofuran (1.66 kg, 1.87 L) and dimethylformamide (0.227 kg, 0.240 L). The addition was carried out over 40-50 min and the temperature of the reaction mixture was maintained at −15 to −10° C. during the course of the addition. The reaction mixture was then warmed to 15-20° C. over about 1 hour. Allyl bromide (0.282 kg, 0.202 L, 2.33 mol) was added over 20-30 min. The temperature of the reaction mixture was maintained at 15-25° C. for 40-50 h. Anhydrous 2B alcohol (anhydrous ethanol with 0.5 to 0.6% by weight of toluene as a denaturant, 04.08 kg, 0.500 L) was then added to the reaction mixture. The resulting solution was concentrated by distillation (under atmospheric pressure) to a volume of about 2.1 L. An additional 0.408 kg (0.500 L) of anhydrous 2B alcohol was then added to the concentrate. The resulting solution was concentrated by distillation under atmospheric pressure to a volume of about 0.95 L. The stirred concentrate was first cooled to 15-20° C. over 3 h and then to 5-10° C. over 1 h. The mixture was stirred for 2 h at 5-10° C. The product mixture (1-allyl-3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole and 2-allyl-3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole) crystallized during this period. The product was then isolated by filtration, washed with cold (5-10° C.) 2B alcohol (2×0.3 L), and dried to a constant weight under reduced pressure (≦30 mm Hg) at 40-50° C. The yield of 1-allyl-3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole was 0.18 kg (64% of theory).

reactant | lithium(trimethylsilyl)amide | 1.63 mol, 1.26 L | C[Si](C)(C)[NH-].[Li+]
reactant | 3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole | 0.766 mol, 0.250 kg | COC1=C(C=CC(=C1)OC)C1=NNC2=C(C=CC=C12)C(F)(F)F | C16H13F3N2O2
reactant | Allyl bromide | 2.33 mol, 0.202 L, 0.282 kg | C(C=C)Br | C3H5Br
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 1.87 L, 1.66 kg | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.240 L, 0.227 kg | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1.3 M | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Allyl-3-(2,4-dimethoxyphenyl)-7-trifluoromethyl-1H-indazole | C(C=C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C19H17F3N2O2
